data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "O1C2(CC2)C[C@@H]3[C@H](OCc4ccccc4)[C@@H](OCc5ccccc5)CN31", "products": "[O]C1(CC1)C[C@@H]2[C@H](OCc3ccccc3)[C@@H](OCc4ccccc4)C[N]2"}, {"reactants": "[O]C1(CC1)C[C@@H]2[C@H](OCc3ccccc3)[C@@H](OCc4ccccc4)C[N]2", "products": "[CH2]CC(=O)C[C@@H]1[C@H](OCc2ccccc2)[C@@H](OCc3ccccc3)C[N]1"}, {"reactants": "[CH2]CC(=O)C[C@@H]1[C@H](OCc2ccccc2)[C@@H](OCc3ccccc3)C[N]1", "products": "O=C1CCN2C[C@H](OCc3ccccc3)[C@@H](OCc4ccccc4)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "t-BuOK"}, {"role": "reagent", "text": "hv, liq. NH3"}], "steps": [{"reactants": "[*]C(C)=O.[CH2-]C(=O)c1ccccc1Br", "products": "[*]/C(C)=C/C(=O)c1ccccc1Br"}, {"reactants": "[*]/C(C)=C/C(=O)c1ccccc1Br", "products": "[*]C(=C)/C=C(\\[O-])c1ccccc1Br"}, {"reactants": "[*]C(=C)/C=C(\\[O-])c1ccccc1Br", "products": "[*]C(=C)/C=C(/[O-])c1ccccc1Br"}, {"reactants": "[*]C(=C)/C=C(/[O-])c1ccccc1Br", "products": "[*]C1=CC([O-])=C2C=CC=CC2(Br)C1"}, {"reactants": "[*]C1=CC([O-])=C2C=CC=CC2(Br)C1", "products": "[*]C1=CC(=O)c2ccccc2C1"}, {"reactants": "[*]C1=CC(=O)c2ccccc2C1", "products": "[*]c1cc(O)c2ccccc2c1[H]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1.[H+]", "products": "CCc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1"}, {"reactants": "CCc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "CCc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1.O"}, {"reactants": "CCc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1", "products": "CCc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1"}, {"reactants": "CCc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1", "products": "CCc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1"}, {"reactants": "CCc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1.O", "products": "CCc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1"}, {"reactants": "CCc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1", "products": "CCc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1"}, {"reactants": "CCc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1", "products": "CCc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1"}, {"reactants": "CCc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1", "products": "CCc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "COc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "COc1ccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(OC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(OC)cc1", "products": "COc1ccc(C(C)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)C)c2C", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "Cc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(F)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(F)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(F)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(F)C(Cl)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CCl)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CCl)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)ccc1C", "products": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1C"}, {"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1C", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(OC)c1", "products": "COc1cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)ccc1C"}]}
